US04582862
(A3) 2-Methyl-1-[4-(methylthio)-phenyl]-2-morpholinopropan-1-one
151.4 g (0.675 mol) of 3,3-dimethyl-2-methoxy-2-[4-(methylthio)-phenyl]-oxirane (melting point 62°-64° C.) are dissolved in 235.2 g (2.70 mols) of morpholine and the solution is warmed to reflux temperature.

reactant | 3,3-dimethyl-2-methoxy-2-[4-(methylthio)-phenyl]-oxirane | 0.675 mol, 151.4 g | CC1(C(O1)(C1=CC=C(C=C1)SC)OC)C | C12H16O2S
reactant | morpholine | 2.70 mols, 235.2 g | N1CCOCC1 | C4H9NO
product | 2-Methyl-1-[4-(methylthio)-phenyl]-2-morpholinopropan-1-one | CC(C(=O)C1=CC=C(C=C1)SC)(C)N1CCOCC1 | C15H21NO2S
